US05252251
Synthesis of methyl 2-n-butyloxypropionate (5d)
20.0 g of optically active methyl lactate and 47.8 g of n-butyl iodide were dissolved in ethyl acetate, and 20 g of Ag2O and 2.0 g of Molecular Sieve 3A were added thereto, followed by 7 hours of stirring at 60° C. After filtration of the insoluble matter, the solvent was distilled off and the remainder was distilled under reduced pressure (66° C./4 mmHg) to obtain 18.4 g of the product. (Yield: 42.8 %)

reactant | methyl lactate | C(C(O)C)(=O)OC | C4H8O3
reactant | n-butyl iodide | 47.8 g | C(CCC)I | C4H9I
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | methyl 2-n-butyloxypropionate | 18.4 g, Yield: 42.8 % | C(CCC)OC(C(=O)OC)C | C8H16O3
